Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath and decreased activity tolerance
 
Major Surgical or Invasive Procedure:
___ s/p ___ BiV ICD

 
History of Present Illness:
HPI:   This is a ___ y.o. woman with the following past medical
history: 

1.   Dilated cardiomyopathy, ___ EF 20%.
2.   Left bundle-branch block pattern on EKG.
3.   Poorly controlled diabetes type 2
4.   NASH with stage III cirrhosis on biopsy.
5.   Morbid obesity.
6.   Obstructive sleep apnea, on CPAP.
7.   Hypertension.
8.   Hyperlipidemia.
9.   Hypothyroidism.
10.  OCD followed at ___.
11.  C- sections x 2
12.  s/p Cataract surgery 

She has a non-ischemic cardiomyopathy with most recent LVEF
showing a reduction from 40% in ___ down to 20%. She is ___
class III. Repeat echocardiogram has demonstrated persistent
reduction in LVEF of about ___ on good therapy.  She also has
a LBBB on ECG of 160ms. She is now referred for CRT with
placement of biventricular ICD/pacer. 

She reports mild dyspnea with moderate exertion. She denies any
___ edema, PND, orthopnea, palpitations, or chest pain.  She has
noted some decreased activity tolerance over the past couple of
years. 
 
Past Medical History:
1. Idiopathic dilated cardiomyopathy (recent EF 45%, up from  
 ___. Baseline LBBB.  
 2. Poorly controlled type 2 diabetes (recent A1c 13%)  
 3. NASH with stage 3 cirrhosis on biopsy in ___. Followed by 
Dr. ___ - recent US without evidence of HCC.  
 4. Morbid obesity.  
 5. Obstructive sleep apnea on CPAP at home.  
 6. Hypertension.  
 7. Hyperlipidemia.  
 8. Hypothyroidism  
 9. OCD, followed at ___  

 
Social History:
___
Family History:
Father had heart disease with question of an enlarged heart and 
sudden cardiac death at age ___. Mother with congestive heart 
failure, multiple aunts and uncles with coronary artery disease. 
 

 
Physical Exam:
Objective: focused exam
VS: T 98.6, BP 123/71 mmHG, HR 94-105 bpm, RR 18/min, O2 98% 
CPAP
Gen: pleasant, NAD
Neck: JVP not elevated. Normal carotid upstroke without bruits. 
Chest: lungs CTAB, no crackles or wheezing. Nasal CPAP on.
CV: RRR, nl S1,S2, no S3/S4. No murmurs, rubs, or gallops.
Deltopectoral site w dressing c/d/i, no discomfort or hematoma. 
Abdomen: soft, NT, ND, BS+, obese
Extremities: wwp, 2+ pulses bilaterally. No femoral bruits. 
 
Pertinent Results:
___ 11:13AM   GLUCOSE-237* LACTATE-2.6* NA+-136 K+-3.8 
CL--104
___ 11:13AM   HGB-12.2 calcHCT-37 O2 SAT-98 CARBOXYHB-1 MET 
HGB-0
___ 07:30AM   GLUCOSE-310* UREA N-12 CREAT-0.7 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-23 ANION GAP-19
___ 07:30AM   WBC-5.8 RBC-4.46 HGB-12.7 HCT-36.4 MCV-82 
MCH-28.5 MCHC-34.8 RDW-16.1*
___ 07:30AM   PLT COUNT-154
___ 07:30AM   ___ PTT-33.1 ___ yr old female with a history of cardiomyopathy, EF ___, 
LBBB and diabetes who is s/p ___ BiV ICD today.  
Doing well post procedure, denies complaints of pain.

The device battery, lead sensing and pacing parameters are 
normal. There is no hematoma, erythema or swelling at the 
insertion site. The immediate post-procedure chest x-ray did not 
show a pneumothorax after axillary vein cannulation and 
demonstrated adequate lead position.

The PA/Lateral CXR on the day post-implant (___) showed 
stable lead position on all leads and no pneumothorax.

She should continue on antibiotics for a total of 72h since the 
time of implant. A prescription for cephalexin 500mg q8h was 
faxed to her pharmacy and should be continued until ___ 
___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 12.5 mg PO BID 
2. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using REG Insulin
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous daily 
5. Lisinopril 20 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
7. Rosuvastatin Calcium 40 mg PO QPM 
8. Spironolactone 25 mg PO DAILY 
9. Torsemide 40 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 
12. Glucose Tab ___ TAB PO PRN hypoglycemia 
13. LOPERamide 2 mg PO QID:PRN diarrhea 
14. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 12.5 mg PO BID 
3. Cephalexin 500 mg PO Q8H 
for 2 days 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous QAM 
7. Lisinopril 20 mg PO DAILY 
8. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
Do Not Crush, 3 tabs daily 
9. Multivitamins 1 TAB PO DAILY 
10. Rosuvastatin Calcium 40 mg PO DAILY 
11. Spironolactone 25 mg PO DAILY 
12. Torsemide 40 mg PO DAILY 
13. HumuLIN R U-500 Concentrated (insulin regular hum U-500 
conc) 500 unit/mL subcutaneous TID 
sliding scale with meals as per Dr. ___ 
14. Acetaminophen 650 mg PO Q6H:PRN fever, pain 
do  not exceed 2 grams in one day 
15. Glucose Tab ___ TAB PO PRN hypoglycemia 
16. LOPERamide 2 mg PO QID:PRN diarrhea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cardiomyopathy: s/p BiV ICD ___

 
Discharge Condition:
Physical Exam:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

A+P:
A ___ yr old female with a history of cardiomyopathy, EF ___, 
LBBB and diabetes who is s/p ___ BiV ICD ___. 
 Doing well post procedure, denies complaints of pain. 

1. Cardiomyopathy: s/p BiV
-Antibiotics for 72 hours
-Continue Torsemide, Spironolactone, Lisinopril and Carvedilol 
-Follow up in the device clinic in one week

2. Diabetes: poorly controlled
-Diabetic diet
-Check sugars AC/HS, cover with sliding scale        
-Continue Victoza QAM

 
Discharge Instructions:
You had a biventricular implantable cardioverter (ICD) placed to 
help treat your heart failue and to shock you heart out of 
dangerous rhythms should they occur.  Please continue all of 
your current medications, in addition you will need to take an 
antibiotic (Keflex) 500mg three times a day for the next 2 days. 
 Activity restrictions and care of your left ICD site are listed 
in your nursing dishcarge instructions. Due to your diagnosis of 
heart failure please continue to weigh yourself every morning, 
call MD if weight goes up more than 3 lbs in ___ days.
 
Followup Instructions:
___